US07396836B2
(6-Chloro-3-pyridyl)methyl methanesulfonate
To a solution of (6-chloro-3-pyridyl)methanol (4.5 g, 31.3 mmol) and triethylamine (13.2 ml, 94.7 mmol) in dichloromethane (90 ml) was dropwise added methanesulfonyl chloride (3.6 ml, 46.5 mmol) over 45 minutes at −9° C. to 4° C. under an atmosphere of nitrogen gas, followed by stirring as it was. After 1 hour, the reaction mixture was elevated to room temperature. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and a saturated aqueous ammonium chloride solution, dried over anhydrous sodium sulfate and concentrated, to give the title compound (6.14 g, 88%) as a pale brown solid.

reactant | (6-chloro-3-pyridyl)methanol | 31.3 mmol, 4.5 g | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | triethylamine | 94.7 mmol, 13.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 46.5 mmol, 3.6 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | (6-Chloro-3-pyridyl)methyl methanesulfonate | 6.14 g, 88% | CS(=O)(=O)OCC=1C=NC(=CC1)Cl | C7H8ClNO3S
